spice
* Common-emitter amplifier

Vcc 3 0 DC 2.5

* Resistors
R1 3 1 1k
R2 3 2 100k
R3 4 0 100

* Capacitor
C1 5 2 <Capacitance value>

* Transistor
Q1 3 5 4 NPN

* Voltage input
Vin 5 0 DC <Input voltage value>

.end